US06096741
To a solution of 3.2 g (12.1 mmol) of methyl 2-benzyloxyimino-3-methoxyiminobutyrate in 50 ml of methanol, 1.01 g (24.2 mmol) of sodium hydroxide and 10 ml of water were added and the mixture was heated under reflux for 24 hours. After distilling the solvent off under reduced pressure and adding 50 ml of water, the mixture was washed with 50 ml of diethylether. The aqueous layer was made acidic by adding a concentrated hydrochloric acid, and then the mixture was extracted three times with 50 ml of diethylether. After washing with water and with a saturated aqueous sodium chloride, the organic layer was dried over with anhydrous magnesium sulfate and the solvent was distilled off to obtain 3.02 g (yeld:100%) of 2-benzyloxyimino-3-methoxyiminobutyric acid as a white solid.

reactant | methyl 2-benzyloxyimino-3-methoxyiminobutyrate | 12.1 mmol, 3.2 g | C(C1=CC=CC=C1)ON=C(C(=O)OC)C(C)=NOC | C13H16N2O4
reactant | sodium hydroxide | 24.2 mmol, 1.01 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-benzyloxyimino-3-methoxyiminobutyric acid | 3.02 g, 100% | C(C1=CC=CC=C1)ON=C(C(=O)O)C(C)=NOC | C12H14N2O4
